US08791133B2
4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-7-isopropyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-cyclopropylmethylcarboxamide
The title compound is prepared as a mixture of diastereomers according to procedure A from 50 mg of (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal, 34 mg of 5-isopropylcyclohexane-1,3-dione and 40 mg of 5-amino-1H-pyrazole-3-cyclo-propylmethylcarboxamide.

reactant | (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal | 50 mg | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C=O | C14H10FNO
reactant | 5-isopropylcyclohexane-1,3-dione | 34 mg | C(C)(C)C1CC(CC(C1)=O)=O | C9H14O2
reactant | 5-amino-1H-pyrazole 3-cyclo-propylmethylcarboxamide | 40 mg | NC1=CC=NN1.C1CC1CC(=O)N
product | 4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-7-isopropyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline 3-cyclopropylmethylcarboxamide | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)C(C)C)NN=C2.C1CC1CC(=O)N | InChI=1S/C26H25FN4O.C5H9NO/c1-15(2)18-11-23-25(24(32)12-18)21(22-14-29-31-26(22)30-23)9-8-20-7-6-17(13-28-20)16-4-3-5-19(27)10-16;6-5(7)3-4-1-2-4/h3-10,13-15,18,21H,11-12H2,1-2H3,(H2,29,30,31);4H,1-3H2,(H2,6,7)/b9-8+;
